* source UCC28C43
R_R13         0 N16765917  10k  
R_R1         RTCT VREF  13.7k  
R_R7         N167661471 VIN  37.4k  
X_U7         N16765447 N16765917 N16765417 FQB6N80
C_C10         0 VIN  0.15uF  
C_C1         RTCT N16764805  470pF  
D_D6         N16765857 +VOUT1 ES3B 
R_R2         N16764805 0  24  
C_C17         VDD 0  0.1u IC=17 
R_R16         N16764549 0  39k  
R_R25         0 +VOUT2  480  
R_R19         0 N16764579  40m  
D_D8         +VOUT2 VDD D1N4148 
D_D4         N16765561 N167645131 ES3B 
C_C16         VDD 0  1uF IC=17 
R_R17         N167645131 +VOUT2  10  
R_R8         VDD N167661471  37.4k  
C_C8         VREF 0  0.1uF  
R_R15         N16765857 N167657290  78.7  
C_C18         +VOUT1 N16764579  47uF IC=12 
X_U2         N16765599 N16765447 0 N16766251 XFMR PARAMS: RATIO=0.16667
V_V1         VIN 0  
+PULSE 0 100 10u 200u 200u 1 2
R_R21         N16766251 N16765857  0.5  
C_C9         N16765701 N16765561  150pF  
C_C12         N167657290 +VOUT1  150pF  
R_R9         0 +VOUT2  4.42k  
C_C5         CS 0  330pF  
R_R18         0 +VOUT1  8.2k  
X_U3         N16765599 N16765447 0 N16766297 XFMR PARAMS: RATIO=0.16667
R_R20         0 N16765327  40m  
R_R4         FB +VOUT2  15k  
R_R22         N16766297 N16765561  0.5  
C_C14         +VOUT1 0  0.1uF IC=12 
C_C19         +VOUT2 N16765327  47uF IC=12 
C_C2         VIN 0  10uF  
R_R10         CS N16765417  1k  
R_R5         0 FB  3.9k  
R_R11         N16765701 +VOUT2  78.7  
L_L1         N16765599 N16765447  300uH  
R_R23         VIN N16765599  1.2  
C_C4         N16764823 COMP  56000pF  
C_C15         COMP FB  56pF  
C_C11         N16765447 N16764549  220pF  
R_R26         0 +VOUT1  48  
R_R6         FB N16764823  57.6k  
X_U5         0 VDD DI_SMAZ16
X_U8         COMP FB CS RTCT 0 OUT VDD VREF UCC28C43_STEADY
R_R14         0 N16765417  1.6  
R_R12         OUT N16765917  10  
D_D5         N16764549 0 DI_S1K 
.IC         V(FB )=2.5
