*SRC=DFLZ16;DI_DFLZ16;Diodes;Zener 10V-50V; 16.0V  1.00W   DIODES INC ZENER
*SYM=HZEN
.SUBCKT DI_DFLZ16  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 13.7
.MODEL DF D ( IS=25.7p RS=0.706 N=1.10
+ CJO=371p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=5.15f RS=2.89 N=3.00 )
.ENDS
