*SRC=MMSZ5248B;DI_MMSZ5248B;Diodes;Zener 10V-50V; 18.0V  0.500W   Diodes Inc. 500 mW Zener
*SYM=HZEN
.SUBCKT DI_MMSZ5248B  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 15.7
.MODEL DF D ( IS=11.4p RS=31.3 N=1.10
+ CJO=25.8p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=2.29f RS=9.90 N=3.00 )