**********************************
* Model created by               *
*   Uni.Dipl.-Ing. Arpad Buermen *
*   arpad.burmen@ieee.org        *
* Copyright:                     *
*   Thomatronik GmbH, Germany    *
*   info@thomatronik.de          *
**********************************
*https://www.vishay.com/docs/88054/gbu4g.txt
* November 2000
*   SPICE3
* Nodes 1 and 2: AC input
* Nodes 3 and 4: +/- DC output
.subckt gbu4g 1 2 3 4
d1 1 3 legd
d2 2 3 legd
d3 4 1 legd
d4 4 2 legd
.model legd d is = 2.46092E-006 n = 2.62593 rs = 0.00370811
+ eg = 1.11 xti = 3 tnom = 27
+ cjo = 2.8562E-010 vj = 0.25 m = 0.332534 fc = 0.5
+ tt = 2.88539E-006 bv = 440 ibv = 0.05 af = 1 kf = 0
.ends
