* Revised in 17.4 based on feedback in CCR- CCMPR01905980 
* Library of diode model parameters
*
*  Copyright Cadence Design Systems, Inc. 2002 All Rights Reserved.
*
*
* $Revision:   1.3  $
* $Author:   HIRASUNA  $
* $Date:   11 May 2000 13:26:32  $

*----------------------------------------------------------------------------
* Cadence Design Systems, Inc. would like to acknowledge Sandia National 
* Laboratories for the contribution of their measurement-based models 
* included in this library.
* The parameters in this model library were derived from the data sheets for
* each part.  Each part was characterized using the Model Editor.
*----------------------------------------------------------------------------

*SRC=DFLZ18;DI_DFLZ18;Diodes;Zener 10V-50V; 18.0V  1.00W   DIODES INC ZENER
*SYM=HZEN
.SUBCKT DI_DFLZ18  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 15.6
.MODEL DF D ( IS=22.9p RS=0.689 N=1.10
+ CJO=332p VJ=1.00 M=0.330 TT=50.1n )
.MODEL DR D ( IS=4.58f RS=2.89 N=3.00 )
.ENDS