* source UCC28C42_V3
L_La         0 N00378  15u  
R_Rstart4         0 N00378  210k  
L_Ls         0 N00232  15u  
Kn_K2         L_Lm L_Ls 
+ L_La    1
V_V3         N00224 0  AC 1
+SIN 0 220 50 0 0 0
R_Rstart3         N00300 N02168  210k  
L_Lm         N02256 0  1.5m  
R_ESR_Lm         N02256 N00224  1  
R_ESR_Ls         N02168 N00232  1  
R_Rstart5         0 N00300  210k  
X_Dz         0 N16740864 DI_SMAZ16
V_V4         N16740857 0  AC 1
+SIN 0 30 50 0 0 0
R_Rstart6         N16740864 N16740857  210k  
C_Cin         0 N16776623  180u  TC=0,0 
X_U10         N16776613 0 N16776741 N16776623 KBL06
V_V2         N16776613 N16776741  AC 1
+SIN 0 220 50 0 0 0
V_V5         N16777810 0  AC 1
+SIN 0 30 50 0 0 0
R_Rstart7         N16777815 N16777810  210k  
X_U37         0 N16777815 DI_DFLZ18
R_Rstart8         0 N16778703  210k  
L_L13         0 IN  1.5mH  
V_V6         N16778537 0  AC 1
+SIN 0 220 50 0 0 0
R_Rstart9         0 OUT  210k  
X_U112         IN 0 OUT 0 0 N16778703 XFMR2 PARAMS:  RATIO1=0.5 RATIO2=0.5
R_ESR_Lm1         IN N16778537  1  
