* source UCC28C42_V3
C_C5         CS 0  330pF  
V_V1         VIN 0  
+PULSE 0 100 10u 200u 200u 1 2
R_R15         N16754689 N167545750  78.7  
L_L1         N16754455 N16755065  300u  
R_R4         FB +VOUT2  15k  
C_C12         N167545750 +VOUT1  150pF  
C_C3         +VOUT1 N167555831  47u  
R_R5         0 FB  3.9k  
R_R3         N167555831 0  0.04  
X_U10         N16754455 N16755065 0 N16755389 XFMR PARAMS: RATIO=0.16666
C_C11         N16755065 N16755031  220pF  
C_C9         N16754545 N16754411  150pF  
R_R18         0 +VOUT1  8.2k  
C_C16         N16754353 0  1.0uF IC=0 
D_D15         N16754689 +VOUT1 ES3B 
D_D5         N16755031 0 DI_S1K 
R_R11         N16754545 +VOUT2  78.7  
R_R6         FB N16755919  57.6k  
R_R10         CS N16755485  1k  
C_C8         VREF 0  0.1uF  
C_C6         +VOUT2 N167556411  47u  
C_C14         +VOUT1 0  0.1uF  
X_U5         0 N16754353 DI_SMAZ16
R_R26         N16755065 N16754455  5k  
R_R17         N167551691 +VOUT2  10  
C_C4         N16755919 COMP  56000pF  
R_R20         N167556411 0  0.04  
R_R7         N167549451 VIN  37.4k  
C_C15         COMP FB  56pF  
R_R14         0 N16755485  1.6  
R_R12         OUT N16755425  10  
R_R23         VIN N16754455  0.5  
R_R9         0 +VOUT2  4.42k  
R_R16         N16755031 0  39k  
R_R1         RTCT VREF  13.7k  
C_C2         VIN 0  10uF  
C_C17         N16754353 0  0.1uF IC=0 
R_R24         N16755389 N16754411  0.5  
R_R13         0 N16755425  10k  
D_D16         N16754411 N167551691 ES3B 
C_C1         RTCT N16771372  470pF  
R_R8         N16754353 N167549451  37.4k  
X_U9         N16754455 N16755065 0 N16755101 XFMR PARAMS: RATIO=0.16666
R_R19         0 +VOUT1  48  
X_U11         N16755065 N16755425 N16755485 FQB6N80
R_R2         N16771372 0  24  
V_V3         N16754353 VDD 0Vdc
D_D8         +VOUT2 N16754353 D1N4148 
R_R25         N16755101 N16754689  0.5  
R_R21         0 +VOUT2  480  
C_C10         0 VIN  0.15uF  
X_U13         COMP FB CS RTCT 0 OUT VDD VREF UCC28C42_START
