* source UCC28C42_V3
R_R_CSF         CS N16740487  3.8k  
C_C_COMPp         N16739891 N16795961  10n  
R_R_SNUB         N16740667 N16792529  50k  
R_R_COMPp         N16795961 N16739891  10k  
R_R24         0 N16739745  2.8  
C_C11         N16740517 N16739639  220pF  
R_R_CS         0 N16740487  0.75  
R_R_G         N16739909 N16740981  10  
X_Dz         0 N16739635 DI_SMAZ16
D_D5         N16739639 0 DI_S1K 
R_R_bleeder         0 N16740981  10k  
C_Cramp         N167402430 N167400091  10n  
R_Rramp         N167400091 CS  24.9k  
R_Rstart1         N167412151 N16740667  210k  
D_D_OUT         N16799559 N16739745 ES3B 
C_C_VDD         N16739635 0  120u IC=17 
R_R16         N16739639 0  39k  
D_D8         N167410070 N16739635 D1N4148 
C_C_CSF         CS 0  100pF  
C_C_SNUB         N16792529 N16740667  10n  
X_UCC28C42         N16739891 N16795961 CS N16740021 0 N16739909 N16739635
+  N16739993 UCC28C42_STEADY
V_V2         N16776491 N16788555  AC 1
+SIN 0 220 50 0 0 0
C_Cin         0 0  180u  TC=0,0 
X_U10         N16776491 0 N16788555 N16740667 KBL06
X_Qsw         N16740517 N16740981 N16740487 IPA65R225C7_L0
R_R_FBU         N16783477 N16739745  9.53k  
R_RLED         N16783475 N16739745  1.3k  
C_C_COMPZ         N16794799 N16783477  10n IC=9 
X_U32         N16783475 N16783514 N16739993 N16795738 SFH615A_4 
R_R_TLbias         N16783514 N16739745  1k  
R_R_FBB         0 N16783477  2.49k  
Kn_K1         L_Lm L_Ls 
+ L_La    1
L_Lm         N16799264 N16740517  1.5m  
L_Ls         0 N16741085  15u  
L_La         0 N16799425  15u  
R_R_VDD         N16797419 N167410070  37.4k  
R_Rstart2         N16739635 N167412151  210k  
C_C_VDDbp         N16739635 0  0.1u IC=17 
C_Cvref         N16739993 0  1u IC=17 
D_D_CLAMP         N16740517 N16792529 DI_S1K 
C_C_OUT         N16739745 0  2200u  
R_R_COMPZ         N16794799 N16783514  88.7k  
R_R_FBG         N16795738 N16795961  4.99k  
R_R_OPTO         N16795738 0  1k  
X_Q2         0 N16796480 N16739891 awb2n2907 PARAMS:                           
+                  
C_Css         N16796480 0  470pF  
R_Rss         N16739993 N16796480  13.7k  
Q_Q3         N16739993 N16740021 N167402430 Q2N2222A/ZTX 
R_Rrt         N16739993 N16740021  15.4k  
C_Cct         N16740021 0  1000p  
R_ESR_Lm         N16799264 N16740667  0.5  
R_ESR_La         N16799425 N16797419  0.5  
R_ESR_Ls         N16799559 N16741085  0.5  
X_U36         N16783477 0 N16783514 TL431/TI
