* source UCC28C42_V3
D_D6         N16780006 +VOUT1 ES3B 
L_L1         N16780079 N16780266  0192uH  
R_R25         0 +VDD  480  
R_R13         0 N16780750  10k  
X_U10         N16779998 0 N16780003 VIN KBL06
R_R19         0 N16780201  40m  
C_C8         VREF 0  0.1uF  
C_C18         +VOUT1 N16780201  47uF IC=12 
R_R2         N16780836 0  24  
V_V2         N16779998 N16780003  AC 1
+SIN 0 220 50 0 0 0
X_U5         0 VDD DI_SMAZ16
X_U8         COMP FB CS RTCT 0 OUT VDD VREF UCC28C42_STEADY
C_C10         0 VIN  0.15uF  
X_U32         N16780956 N16780995 FB 0 SFH615A_4 
R_R18         0 +VOUT1  8.2k  
X_U11         N16780266 N16780750 N16780785 IPA65R225C7_L0
C_Cin         0 VIN  368u  TC=0,0 
X_U3         N16780079 N16780266 0 N16780582 XFMR PARAMS: RATIO=0.1
R_R59         N16780995 N16780956  1k  
C_C17         VDD 0  0.1u IC=17 
R_R15         N16780006 N167799830  78.7  
C_C14         +VOUT1 0  0.1uF IC=12 
R_R20         0 N16780646  40m  
C_C5         CS 0  330pF  
D_D8         +VDD VDD D1N4148 
C_C16         VDD 0  1uF IC=17 
R_R14         0 N16780785  176m  
X_U2         N16780079 N16780266 0 N16780104 XFMR PARAMS: RATIO=0.17
C_CZERO         N16780995 N16780958  10n IC=9 
R_R4         FB +VOUT1  27.3k  
C_C12         N167799830 +VOUT1  150pF  
C_C15         COMP FB  56pF  
R_R1         RTCT VREF  13.7k  
D_D5         N16780764 0 DI_S1K 
R_R22         N16780582 N16780457  0.5  
R_R6         FB N16780345  57.6k  
C_C19         +VDD N16780646  47uF IC=12 
C_C2         VIN 0  10uF  
R_RLED         N16780956 VOUT1  180  
R_R12         OUT N16780750  7.87  
C_C1         RTCT N16780836  470pF  
X_U35         N16780995 0 N16780958 TL431 
D_D4         N16780457 N167805190 ES3B 
R_R9         0 +VDD  4.42k  
R_R23         VIN N16780079  1.2  
C_C4         N16780345 COMP  56000pF  
R_R24         0 +VOUT1  2.8  
R_RUPPER2         N16780958 VOUT1  18k  
C_C11         N16780266 N16780764  220pF  
R_R16         N16780764 0  39k  
R_R5         0 FB  3.9k  
R_R17         N167805190 +VDD  10  
R_RLOWER2         0 N16780958  4.7k  
R_R21         N16780104 N16780006  0.5  
C_C9         N16780462 N16780457  150pF  
R_R7         N167801331 VIN  37.4k  
R_R10         CS N16780785  1k  
R_R8         VDD N167801331  37.4k  
R_R11         N16780462 +VDD  78.7  
.IC         V(FB )=2.5
