* source UCC28C42_V3
X_Dzz         0 0 DI_SMAZ16
R_Rramp         N167770231 CS  24.9k  
X_Qsw         N16740517 N16740981 N16740487 IPA65R225C7_L0
R_R_FBB         0 N16783477  2.49k  
R_R_TLbias         N16783514 OUT  1k  
X_Dz         0 N16739635 DI_DFLZ18
R_R_G         N16739909 N16740981  10  
R_R_bleeder         0 N16740981  10k  
C_C_CSF         CS 0  100pF  
R_R_COMPZ         N16794799 N16783514  88.7k  
R_R_SNUB         N16740667 N16792529  50k  
R_R_CSF         CS N16740487  3.8k  
R_R_OPTO         N16795738 0  1k  
R_ESR_Lm         N16799264 N16740667  0.5  
C_C_OUT         OUT 0  1700u  
R_R_COMPp         N16795961 N16739891  10k  
C_C_VDDbp         N16739635 0  0.1u IC=17 
R_R_CS         0 N16740487  0.3  
V_V2         N16776491 N16788555  AC 1
+SIN 0 220 50 0 0 0
C_Cvref         N16739993 0  1u IC=17 
R_ESR_Ls         N16799559 N16810033  0.5  
C_C_SNUB         N16792529 N16740667  10n  
X_U10         N16776491 0 N16788555 N16740667 KBL06
R_Rss         N16803483 N16796480  13.7k  
R_RLED         N16783475 OUT  1.3k  
C_Cct         N16740021 0  1000p  
R_Rrt         N16739993 N16740021  15.4k  
R_R_FBU         N16783477 OUT  17.5k  
X_U32         N16783475 N16783514 N16739993 N16795738 SFH615A_4 
X_U112         N16799264 N16740517 0 N16810033 N16799425 0 XFMR2 PARAMS: 
+  RATIO1=0.17 RATIO2=0.1
C_Css         N16796480 0  470pF  
X_U8         N16739891 N16795961 CS N16740021 0 N16739909 N16739635 N16739993
+  UCC28C42_STEADY
R_Rstart1         N167771610 N16740667  210k  
L_Lm1         N16799264 N16740517  0.7m  
R_R_VDD         N16797419 N16805113  22  
C_Cramp         N167770230 N167770231  10n  
X_Q2         0 N16796480 N16803483 awb2n2907 PARAMS:                           
+                  
D_D_CLAMP         N16740517 N16792529 DI_S1K 
C_Cin         0 N16740667  320u  TC=0,0 
Q_Q3         N16739993 N16740021 N167770230 Q2N2222A/ZTX 
C_C_VDD         N16739635 0  120u IC=17 
D_D8         N16805113 N16739635 D1N4148 
R_ESR_La         N16799425 N16797419  0.5  
R_Rstart2         N16739635 N167771610  210k  
C_C_COMPp         N16739891 N16795961  10n  
X_U36         N16783477 0 N16783514 TL431/TI
R_R_FBG         N16795738 N16795961  4.99k  
C_C_COMPZ         N16794799 N16783477  10n IC=9 
R_Rload         0 OUT  2.8  
D_D_OUT         N16799559 OUT ES3B 
